US07271264B2
1-Bromo-2-(1-ethoxy-ethoxymethyl)-4-methoxy-benzene
Dissolve (2-bromo-5-methoxy-phenyl)methanol (5.0 g, 23 mmol) in dry dichloromethane (120 mL) and cool to 0° C. under nitrogen. Add ethyl vinyl ether (2.5 g, 34 mmol) followed by pyridinium p-toluenesulfonate (580 mg, 2.3 mmol). Warm to room temperature and stir for 2 hours. Pour reaction into saturated aqueous sodium bicarbonate and extract twice with dichloromethane. Combine organic layers and wash with water and brine. Dry with sodium sulfate, filter and concentrate in vacuo to yield 6.6 g (100%) of title compound as a clear colorless oil. 1H NMR (CDCl3) δ 7.41 (d, J=8.6 Hz, 1H), 7.08 (d, J=3.1 Hz, 1H), 6.71 (dd, J=8.8, 3.1 Hz, 1H), 4.88 (q, J=5.3 Hz, 1H), 4.65 (ab, Jab=13.3 Hz, H), 4.55 (ab, Jab=13.3 Hz, 1H), 3.8 (s, 3H), 3.71 (m, 1H), 3.55 (m, 1H), 1.41 (d, J=5.3 Hz, 3H), 1.23 (t, J=7.0 Hz, 3H).

reactant | (2-bromo-5-methoxy-phenyl)methanol | 23 mmol, 5.0 g | BrC1=C(C=C(C=C1)OC)CO | C8H9BrO2
reactant | ethyl vinyl ether | 34 mmol, 2.5 g | C(=C)OCC | C4H8O
reactant | pyridinium p-toluenesulfonate | 2.3 mmol, 580 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 120 mL | ClCCl | CH2Cl2
product | 1-Bromo-2-(1-ethoxy-ethoxymethyl)-4-methoxy-benzene | 6.6 g, 100% | BrC1=C(C=C(C=C1)OC)COC(C)OCC | C12H17BrO3
